US04308180
346 Grams of a sulfur-containing phenol resin (softening point, 107° C.) was obtained in completely the same manner as in Reference Example 1 except that 144 g (1 mole) of β-naphthol was used in place of resorcin.

reactant | sulfur | [S] | S
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
product | β-naphthol | 1 mole, 144 g | C1=C(C=CC2=CC=CC=C12)O | C10H8O
